US06248739B1
N-(4-Chlorobenzyl)-1-(dimethylamino)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
Butyl 1-(dimethylamino)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate (0.50 g) from Preparation No. 58 and 4-chlorobenzylamine (0.29 mL) are heated to 170° C. for 7 hours. The reaction is cooled to rt, and the crude solid is recrystallized in acetic acid yielding 0.54 g of the amide. The resulting amide (0.25 g), copper (I) iodide (30 mg), and bis(triphenylphosphine)palladium (II) chloride (18 mg) are suspended in diethylamine (8 mL). Propargyl alcohol (36 μL) is added and the mixture is allowed to stir at room temperature for 16 h. The mixture is diluted with ethanol and then concentrated in vacuo. The crude solid is triturated with dichloromethane and purified by column chromatography (2% MeOH/CH2Cl2), affording 9 mg of the title compound as a beige solid.

reactant | Butyl 1-(dimethylamino)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 0.50 g | CN(N1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)OCCCC)C | C16H19IN2O3
reactant | 4-chlorobenzylamine | 0.29 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-1-(dimethylamino)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 9 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)N(C)C)C=C1 | C22H20ClN3O3
